US05977101
a) 2-[(tert-Butoxycarbonyl)sarcosyl]aminoaniline
A solution of phenylenediamine (100 g, 0.924 mole) and Boc-sarcosine (175 g, 0.924 mole) in DMF (1750 mL) was cooled to -10° C. under argon, and a solution of DCC (190.8 g, 0.924 mole) in CH2Cl2 (1750 mL) was added in a slow stream over 1 hr. The temperature rose to 0° C. during the addition. The reaction was stirred overnight while the temperature was allowed to rise to RT. The white precipitate was removed by filtration, and the filtrate was diluted with H2O (3.5 L) and saturated brine (1 L). The CH2Cl2 layer was separated and the aqueous phase was extracted with EtOAc (2×1 L). The combined organic layers were washed with H2O (1 L) and brine (0.5 L), then were concentrated to a yellow residue (341 g). This was triturated with EtOAc to afford the title compound (179.4 g, 70%): mp 134-136° C.

reactant | phenylenediamine | 0.924 mole, 100 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | Boc-sarcosine | 0.924 mole, 175 g | C(=O)(OC(C)(C)C)N(C)CC(=O)O | C8H15NO4
reactant | DCC | 0.924 mole, 190.8 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 1750 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 1750 mL | C(Cl)Cl | CH2Cl2
product | 2-[(tert-Butoxycarbonyl)sarcosyl]aminoaniline | 179.4 g, 70% | C(C)(C)(C)OC(=O)N(C)CC(=O)NC1=C(N)C=CC=C1 | C14H21N3O3
